US08183275B2
A mixture of 3,3-bis(fluoromethyl)pentanal (6.8 g, 45 mmol) and Oxone® (27.9 g, 45 mmol) in N,N-dimethylformamide (120 mL) was stirred at rt for 4 h. The reaction was quenched with 2N hydrochloric acid (200 mL) and extracted with ethyl acetate (4×100 mL). The extracts were washed with 2 N hydrochloric acid (150 mL) and 5% aqueous lithium chloride (150 mL), dried over sodium sulfate and concentrated to give 3,3-bis(fluoromethyl)pentanoic acid.

reactant | 3,3-bis(fluoromethyl)pentanal | 45 mmol, 6.8 g | FCC(CC=O)(CC)CF | C7H12F2O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 3,3-bis(fluoromethyl)pentanoic acid | FCC(CC(=O)O)(CC)CF | C7H12F2O2
